US07026514B2
Preparation of N,N′-bis(2-cyanoethyl)-cyclohexane-1,4-diamine (II)
In a 5-liter reactor, 531.5 g of 1,4-cyclohexanediamine were placed and warmed at 80° C. until total fusion of the product. Then 675 mL of acrylonitrile were added and the mixture was warmed at 80° C. for 1 h, and at 100° C. for 2 h. Then 960 mL of ethanol were added and it was cooled down to room temperature, occurring the precipitation of a solid. After filtering, washing with ethanol and drying, 952.2 g (92.8%) of the title compound were obtained as a brown solid. Elemental analysis (%): theory, C 65.49, H 9.09, N 25.45; found, C 65.80, H 9.20, N 26.16.

reactant | 1,4-cyclohexanediamine | 531.5 g | C1(CCC(CC1)N)N | C6H14N2
reactant | acrylonitrile | 675 mL | C(C=C)#N | C3H3N
solvent | ethanol | 960 mL | C(C)O | C2H6O
product | N,N′-bis(2-cyanoethyl)-cyclohexane-1,4-diamine | 952.2 g, 92.8% | C(#N)CCNC1CCC(CC1)NCCC#N | C12H20N4
